US07538239B2
2-(2-amino-5-methylphenyl)-3-methyl-2-cyclopenten-1-one
1.607 g (8.031 mmol) of 2-bromo-4-methylaniline, 1.180 g (8.432 mmol) of 5-methyl-1-cyclopenten-2-one boronic acid compound, 0.093 g (0.080 mmol) of tetrakis(triphenylphosphine)palladium, and 1.277 g (12.047 mmol) of sodium carbonate were loaded to 250 mL schlenk flask, and then 24 mL of degassing DME and 8 mL of H2O that had been purged with N2 were added thereto using a syringe. The mixture was reacted at 90° C. for 12 hours. The work-up was the same as in Example 3 (1.66 g, 96%).

reactant | 2-bromo-4-methylaniline | 8.031 mmol, 1.607 g | BrC1=C(N)C=CC(=C1)C | C7H8BrN
reactant | sodium carbonate | 12.047 mmol, 1.277 g | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium | 0.080 mmol, 0.093 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(2-amino-5-methylphenyl)-3-methyl-2-cyclopenten-1-one | NC1=C(C=C(C=C1)C)C=1C(CCC1C)=O | C13H15NO
